US06329550B1
1.1 Synthesis of N,N′-diphenethyl-2-(t-butoxycarbonylamino)malonamide
Combine t-butoxycarbonylaminomalonic acid (0.465 g, 2.12 mmol), phenethylamine (0.715 mL, 5.70 mmol), and dichloromethane (25 mL). Add N-methylmorpholine (0.752 mL, 6.85 mmol). Cool in an ice bath. Add benzotriazol-1-yloxy-tris(pyrrolidino)phosphonium hexafluorophosphate complex (3.15 g, 6.85 mmol). Remove the ice bath and allow to warm to ambient temperature. After 18 hours, dilute the reaction mixture with ethyl acetate, extract with an aqueous 5% sulfuric acid solution, a saturated sodium bicarbonate solution, and then brine. Dry the organic layers over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 2/1 ethyl acetate/hexane to give the title compound.

reactant | t-butoxycarbonylaminomalonic acid | 2.12 mmol, 0.465 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C(=O)O | C8H13NO6
reactant | phenethylamine | 5.70 mmol, 0.715 mL | C(CC1=CC=CC=C1)N | C8H11N
reactant | dichloromethane | 25 mL | ClCCl | CH2Cl2
reactant | N-methylmorpholine | 6.85 mmol, 0.752 mL | CN1CCOCC1 | C5H11NO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | N,N′-diphenethyl-2-(t-butoxycarbonylamino)malonamide | C(CC1=CC=CC=C1)NC(C(C(=O)NCCC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C24H31N3O4
